US07994176B2
3-Cyclohexyl-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one
Treat a solution of 3-cyclohexyl-1-(2,6-dichloro-4-methoxy-benzyl)-pyrrolidin-2-one (1.3 g, 3.66 mmol) in dichloroethane (30 mL) at −20° C. with boron tribromide (1.0 M in DCM, 18.3 mL) for 2 hours. Warm the reaction up to room temperature and stir for 12 hours. Quench the reaction with methanol and remove the solvent under vacuum. Partition the residue with ethyl acetate and HCl (1 N). Wash the organic with water. After drying the organic layer, filtrate and concentrate to afford 1.2 g (99%) of the title compound. MS (m/z): 342 (M+).

reactant | 3-cyclohexyl-1-(2,6-dichloro-4-methoxy-benzyl)-pyrrolidin-2-one | 3.66 mmol, 1.3 g | C1(CCCCC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)OC)Cl)=O | C18H23Cl2NO2
reactant | boron tribromide | 1.0 M, 18.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | 3-Cyclohexyl-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 1.2 g, 99% | C1(CCCCC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O | C17H21Cl2NO2
